US07453010B2
A solution of 16.4 g of trans-4-{4-[benzyl(tert-butoxycarbonyl)amino]cyclohexyl}phenyl trifluoromethanesulfonate (32 mmol) in a mixture of trifluoroacetic acid (150 ml) and dichloromethane (900 ml) is stirred for 1 h 30. The solvents are evaporated under reduced pressure and then water, ethyl acetate and an aqueous ammonia solution are added. The organic phase is washed once with water and dried over sodium sulfate. trans-4-[4-(Benzylamino)cyclohexyl]-phenyl trifluoromethanesulfonate is obtained in the form of crystals (12.96 g, 98%) after evaporation of the solvents under reduced pressure. [M+H+]=414.2

reactant | trans-4-{4-[benzyl(tert-butoxycarbonyl)amino]cyclohexyl}phenyl trifluoromethanesulfonate | 32 mmol, 16.4 g | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(C(=O)OC(C)(C)C)CC1=CC=CC=C1)(F)F | C25H30F3NO5S
solvent | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 900 ml | ClCCl | CH2Cl2
product | trans-4-[4-(Benzylamino)cyclohexyl]-phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NCC1=CC=CC=C1)(F)F | C20H22F3NO3S
